US08293917B2
A suspension of [1-(5-methanesulfonyl-pyridin-3-yl)-butyl]-carbamic acid tert-butyl ester (3.2 g, 9.6 mmol) in dichloromethane (12 mL) is treated HCl in dioxane (4.0 N, 24 mL, 96 mmol) and stirred for 30 min. The solvent is then removed in vacuo. The resultant residue is triturated with anhydrous ethyl ether (50 mL) and filtered (note: the collected solids are hygroscopic and turn into a liquid when left exposed to air.) Methanol is added and the solution is concentrated in vacuo to yield 1-(5-methanesulfonyl-pyridin-3-yl)-butylamine dihydrochloride (2.8 g, 100%) as a dark brown solid.

reactant | [1-(5-methanesulfonyl-pyridin-3-yl)-butyl]-carbamic acid tert-butyl ester | 9.6 mmol, 3.2 g | C(C)(C)(C)OC(NC(CCC)C=1C=NC=C(C1)S(=O)(=O)C)=O | C15H24N2O4S
reactant | HCl | Cl | ClH
reactant | dioxane | 96 mmol, 4.0 N, 24 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 1-(5-methanesulfonyl-pyridin-3-yl)-butylamine dihydrochloride | 2.8 g, 100% | Cl.Cl.CS(=O)(=O)C=1C=C(C=NC1)C(CCC)N | InChI=1S/C10H16N2O2S.2ClH/c1-3-4-10(11)8-5-9(7-12-6-8)15(2,13)14;;/h5-7,10H,3-4,11H2,1-2H3;2*1H
